US06235771B1
To a mixture of 4-bromo-2-chlorophenol (15.92 g) and potassium carbonate (15.9 g) in DMF (100 ml) was added at room temperature 2-bromoethylethyl ether (9.51 ml), and the mixture was stirred at 60° C. for 18 hours. To the mixture was added water, and the mixture was extracted with diethylether. The organic layer was washed with saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure to give pale yellow oil of 4-bromo-2-chloro-1-(2-ethoxyethoxy)benzene (21.76 g).

reactant | 4-bromo-2-chlorophenol | 15.92 g | BrC1=CC(=C(C=C1)O)Cl | C6H4BrClO
reactant | potassium carbonate | 15.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethylethyl ether | 9.51 ml | BrCCOCC | C4H9BrO
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-bromo-2-chloro-1-(2-ethoxyethoxy)benzene | 21.76 g | BrC1=CC(=C(C=C1)OCCOCC)Cl | C10H12BrClO2
